US07550474B2
b. C-Tetrazolo[1,5-b]pyridazin-6-yl-methylamine
Tetrazolo[1,5-b]pyridazine-6-carbonitrile (228 mg, 1.58 mmol), as prepared in the previous step, was added to a mixture of 10% Pd/C (118 mg), MeOH (8.5 mL), and 12 N HCl (0.54 mL), and was then shaken in a Parr hydrogenation apparatus at 40 psig for 5 h. The mixture was then filtered through Celite, the filter cake was washed with MeOH (2×5 mL), and concentrated to afford 255 mg of the hydrochloride salt of the title compound as an off-white solid (1.29 mmol, 82% yield, assuming dihydrochloride salt). A portion of the salt was neutralized with saturated Na2CO3 and extracted with EtOAc. The organic layer was dried (Na2SO4) and concentrated to afford the title compound (free base). 1H-NMR (300 MHz, CDCl3) δ 8.36 (d, 9.3 Hz, 1H), 7.65 (d, 9.3 Hz, 1H), 4.27 (s, 2H), 1.62 (br s, overlapped with water peak). LC/MS (m/z) [M+1]+ 151.0 (calculated for C5H6N6, 150.1).

reactant | Tetrazolo[1,5-b]pyridazine-6-carbonitrile | 1.58 mmol, 228 mg | N=1N=NN2N=C(C=CC21)C#N | C5H2N6
reactant | HCl | 12 N, 0.54 mL | Cl | ClH
catalyst | Pd/C | 118 mg | [Pd] | Pd
solvent | MeOH | 8.5 mL | CO | CH4O
product | C-Tetrazolo[1,5-b]pyridazin-6-yl-methylamine | 1.29 mmol, 82% yield | N=1N=NN2N=C(C=CC21)CN | C5H6N6
